US07737166B2
7-Fluoro-5-methyl-6-phenyl-2-(1,3-thiazol-2-yl)-1,3-benzoxazole-4-carbonitrile (I-186)
2-Tri-n-butylstannylthiazole (392 mg, 1.05 mmol), dichlorobis(triphenylphosphine)palladium(II) (49.0 mg, 0.070 mmol) and 2,6-di-tert-butylcresol (30.7 mg, 0.14 mmol) were added to a toluene (20 ml) solution of 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (200 mg, 0.698 mmol), followed by heating under reflux in an oil bath at 125° C. for 5 hours in an argon atmosphere. The solvent was evaporated away under reduced pressure, then the residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=9:1→2:1) to obtain the entitled compound (70.0 mg, 29.9%) as a pale yellow solid.

reactant | 2-Tri-n-butylstannylthiazole | 1.05 mmol, 392 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
reactant | 2,6-di-tert-butylcresol | 0.14 mmol, 30.7 mg | C(C)(C)(C)C1(CC=CC(=C1O)C(C)(C)C)C | C15H26O
reactant | 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.698 mmol, 200 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.070 mmol, 49.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Fluoro-5-methyl-6-phenyl-2-(1,3-thiazol-2-yl)-1,3-benzoxazole-4-carbonitrile | 70.0 mg, 29.9% | FC=1C(=C(C(=C2N=C(OC21)C=2SC=CN2)C#N)C)C2=CC=CC=C2 | C18H10FN3OS
